US05587144
(e) 4-Hydroxy-2,6-piperidinedimethaneamine Penta (Acetic Acid)
4-Hydroxy-2,6-piperidinedimethaneamine (10 mmol) is dissolved in water (10 ml). The pH is adjusted to 10 with 4M LiOH, and a solution of bromoacetic acid (55 mmol) and LiOH (55 mmol) in water (10 ml) is gradually added to the stirred mixture at ambient temperature. The temperature is gradually increased to 85° C. during 4 hours while the pH is kept in the alkaline range (8 to 10) with aqueous LiOH. The solution is allowed to cool to ambient temperature, neutralised with conc. hydrobromic acid, loaded on a strong cation exchanger (AG 5Wx4) and eluted with 6M aqueous ammonia. After evaporation down, the crude product is dissolved in water and lyophilised to yield the title compound.

reactant | 4-Hydroxy-2,6-piperidinedimethaneamine | 10 mmol | OC1CC(NC(C1)CN)CN | C7H17N3O
reactant | LiOH | 4M | [Li+].[OH-]
reactant | bromoacetic acid | 55 mmol | BrCC(=O)O | C2H3BrO2
reactant | LiOH | 55 mmol | [Li+].[OH-]
reactant | hydrobromic acid | Br | BrH
solvent | water | 10 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 4-Hydroxy-2,6-piperidinedimethaneamine Penta (Acetic Acid) | C(C)(=O)O.C(C)(=O)O.C(C)(=O)O.C(C)(=O)O.C(C)(=O)O.OC1CC(NC(C1)CN)CN | InChI=1S/C7H17N3O.5C2H4O2/c8-3-5-1-7(11)2-6(4-9)10-5;5*1-2(3)4/h5-7,10-11H,1-4,8-9H2;5*1H3,(H,3,4)
